Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PLASTIC
 
Allergies: 
Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Absence of the breast, bilateral
 
Major Surgical or Invasive Procedure:
Right mastectomy with SLNB & bilateral latissimus reconstruction 
with tissue expanders ___
 
History of Present Illness:
___ year old female with a PMHx left breast cancer s/p mastectomy 
with radiation many years ago, now requiring a right 
skin-sparing mastectomy, SLNB, and bilateral breast 
reconstruction after her annual mammogram showed a new area of 
concern in her right breast. Two areas of the right breast were 
biopsied at ___ and found to be an infiltrating 
ductal carcinoma. After careful consultation, she is opting for 
bilateral latissimus flaps and tissue expanders for 
reconstruction.

 
Past Medical History:
BREAST CANCER
COLONIC POLYPS
DYSTHYMIC DISORDER
HEMOCHROMATOSIS
HYPERCHOLESTEROLEMIA
INSOMNIA
MENOPAUSE
OBESITY
TREMOR
LYMPHEDEMA SYNDROME
ANEMIA
DIVERTICULOSIS
REFLUX ESOPHAGITIS
COLONIC ADENOMA
 
Social History:
___
Family History:
Father died of CAD at age ___. Mother had a stroke.
 
Physical Exam:
From post-op check note on ___:
 
Vitals: 24 HR Data (last updated ___)
  Temp: 98.4 (Tm 98.4), BP: 170/75, HR: 73, RR: 18, O2 sat: 96%, 
O2 delivery: RA
Fluid Balance (last updated ___ @ ___)
  Last 8 hours  Total cumulative -60ml
    IN: Total 0ml
    OUT:  Total 60ml, Urine Amt 60ml
  Last 24 hours  Total cumulative -60ml
    IN: Total 0ml
    OUT:  Total 60ml, Urine Amt 60ml
Physical exam:
Gen: NAD, AxOx3
Card: RRR
Pulm: no respiratory distress, breathing comfortably on RA
Abd: Soft, non-tender, non-distended.  
Wounds: c/d/I, JPx4 ss
Ext: No edema, warm well-perfused
 
Pertinent Results:
___ 07:09AM BLOOD WBC-8.9 RBC-3.21* Hgb-8.9* Hct-28.3* 
MCV-88 MCH-27.7 MCHC-31.4* RDW-13.2 RDWSD-42.6 Plt ___
___ 07:09AM BLOOD Glucose-122* UreaN-13 Creat-0.7 Na-141 
K-3.9 Cl-101 HCO3-26 AnGap-___ year old female with a PMHx left breast cancer s/p mastectomy 
with radiation many years ago, recent dx of right breast cancer, 
now s/p right mastectomy with SLNB and bilateral breast 
reconstruction with latissimus flaps and tissue expanders. The 
patient did not have a foley catheter in the OR, was given 1400 
ml IVF in the OR, but failed to void in PACU with 500 cc on 
bladder scan. She had a foley placed overnight which was then 
removed on POD1 with low urine output throughout the day. 
Patient was encouraged to increase her PO intake of fluids and 
was given IVF bolus. She had a subsequent improvement in urine 
output on POD 2. Labs on POD2 showed mild anemia but were 
otherwise unremarkable. Patient's pain has been well-controlled 
with PO pain medication post-op. She had JPx4 placed in the OR, 
all draining appropriate amount of serosanguinous fluid. Lat 
flaps have had good cap refill b/l and all incisions are CDI. 
She was on ancef x 24 hours post-op and will go home without 
antibiotics. 
 
Medications on Admission:
1. Atorvastatin 40 mg PO QPM  
2. Citalopram 20 mg PO DAILY  
3. Omeprazole 40 mg PO BID  
4. Propranolol 30 mg PO/NG BID  
5. Sucralfate 1 gm PO QID  

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0 
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
RX *oxycodone 5 mg 1 to 2 tablet(s) by mouth every six (6) hours 
Disp #*15 Tablet Refills:*0 
4.  Atorvastatin 40 mg PO QPM  
5.  Citalopram 20 mg PO DAILY  
6.  Omeprazole 40 mg PO BID  
7.  Propranolol 30 mg PO/NG BID  
8.  Sucralfate 1 gm PO QID  
 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Absence of the breast, bilateral

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted on ___ for mastectomy with latissimus 
flap/implant reconstruction. Please follow these discharge 
instructions. 
. 
Personal Care:  
1. Leave any dressings in place x 48 hours after surgery, then 
you may remove them.  
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. You may shower daily. No baths or swimming until instructed 
to do so by Dr. ___.  
6. You may secure your drains to a lanyard, fabric belt/scarf or 
a shoelace tied around your neck. 
.  
Activity:  
1. You may resume your regular diet.  
2. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity until instructed by Dr. ___.  
.  
Medications:  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered.  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging.  
3. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
4. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  
.  
Call the office IMMEDIATELY if you have any of the following:  
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5 oF  
4. Severe pain NOT relieved by your medication.  
.  
Return to the ER if:  
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  
.  
DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.
 
Followup Instructions:
___